US05319100
(1) The Preparation of N-carbamoyl-3-bromopyrrolidin-2-one
A solution of 30 g of 2,4-dibromobutyryl chloride (J. Med. Chem., p1995, 30. 1987) and 13.63 g of urea dissolved into 150 ml of benzene was heated at 90° C. with stirring for 3 hours. The reaction mixture was cooled to room temperature, then a very excessive amount of ethyl acetate was added thereto. The layer of ethyl acetate was washed with an aqueous solution of sodium bicarbonate and saturated brine, then the resulting solution was dried over magnesium sulfate and evaporated. The obtained residue (28 g) was dissolved into 30 ml of tetrahydrofuran (THF) and cooled. To this mixture was added 4.7 g of NaH (55% in mineral oil) bit by bit, then the mixture was stirred at room temperature for 2 hours. The reaction mixture was evaporated to make the amount of the solution about 50 ml, then which was poured into ethyl acetate. The layer of ethyl acetate was washed with water and saturated brine, dried over magnesium sulfate, and evaporated. The obtained residue was washed well with n-hexane, whereby 15.7 g of the objective compound was obtained in 66% yield.

reactant | 2,4-dibromobutyryl chloride | 30 g | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | urea | 13.63 g | NC(=O)N | CH4N2O
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-carbamoyl-3-bromopyrrolidin-2-one | 15.7 g, 66% yield | C(N)(=O)N1C(C(CC1)Br)=O | C5H7BrN2O2
